US07968538B2
N-(2-(Methylsulfonyl)-5-(piperazin-1-yl)phenyl)naphthalen-1-amine hydrochloride
To a solution of N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)naphthalen-1-amine (120.0 mg, 0.31 mmol) in dichloromethane (2 mL) was added 0.4 mL of 1 M HCl in diethyl ether. The solution was allowed to stir for 1 h, after which a precipitate formed. The solvent was removed by rotary evaporation to collect the title compound (122.0 mg, 0.29 mmol) in 94% yield. 1H NMR (400 MHz, CD3OD): δ 7.94 (d, 1H), 7.91 (d, 1H), 7.84 (d, 1H), 7.73 (d, 1H), 7.50 (m, 4H), 6.60 (d, 1H), 6.29 (s, 1H), 3.47 (m, 4H), 3.21 (m, 4H), 3.19 (s, 3H); MS (ESI) m/z: Calculated for C21H24N3O2S: 382.2; Observed: 382.4 (M++1).

reactant | N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)naphthalen-1-amine | 0.31 mmol, 120.0 mg | CS(=O)(=O)C1=C(C=C(C=C1)N1CCNCC1)NC1=CC=CC2=CC=CC=C12 | C21H23N3O2S
reactant | HCl | 1 M, 0.4 mL | Cl | ClH
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(2-(Methylsulfonyl)-5-(piperazin-1-yl)phenyl)naphthalen-1-amine hydrochloride | 0.29 mmol, 122.0 mg, 94% yield | Cl.CS(=O)(=O)C1=C(C=C(C=C1)N1CCNCC1)NC1=CC=CC2=CC=CC=C12 | InChI=1S/C21H23N3O2S.ClH/c1-27(25,26)21-10-9-17(24-13-11-22-12-14-24)15-20(21)23-19-8-4-6-16-5-2-3-7-18(16)19;/h2-10,15,22-23H,11-14H2,1H3;1H
